US05217964
Step a: 3N-(4-methylthiophenyl)propionitrile
Dissolve 4-(methylmercapto)aniline (25.7 g, 0.185 mol) and acrylonitrile (11.7 g, 0.22 mol) in ethanol (700 mL) and heat at reflux for 18 hours. Evaporate the solvent in vacuo and purify by distillation to give the title compound.

reactant | 4-(methylmercapto)aniline | 0.185 mol, 25.7 g | CSC1=CC=C(N)C=C1 | C7H9NS
reactant | acrylonitrile | 0.22 mol, 11.7 g | C(C=C)#N | C3H3N
solvent | ethanol | 700 mL | C(C)O | C2H6O
product | (4-methylthiophenyl)propionitrile | CC=1C=C(SC1)C(C#N)C | C8H9NS
